US05324833
Fmoc-Asn(Trt)-OH
0.8 ml of 1-chloro-N,N,2-trimethyl-prop-1-enylamine (A. Devos et al., J. Chem. Soc., Chem. Commun., Vol. 1979, p. 1180) is added to a stirred solution of 2.09 g of Fmoc-Asp-OBzl in 20 ml of 1,2-dichloroethane at 0° under an argon atmosphere. After 10 minutes, a solution of 1.2 g of tritylamine in 4 ml of 1,2-dichloroethane is added, and then the mixture is stirred for 2 hours, diluted with ethyl acetate and washed with water. The organic phase is dried and evaporated. The residue is taken up in chloroform and chromatographed on 250 g of silica gel. The fractions containing the Fmoc-Asn(Trt)-OBzl are combined and evaporated; the product is obtained as an amorphous foam.

reactant | 1-chloro-N,N,2-trimethyl-prop-1-enylamine | 0.8 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | Fmoc-Asp-OBzl | 2.09 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H23NO6
reactant | tritylamine | 1.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Fmoc-Asn(Trt)-OH | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C38H32N2O5
